US07071201B2
Example 262: Synthesis of 1-[1-(2,4-difluorophenethyl)-piperidin-4-yl]-6-chloro-7-azaindoline
1-(Piperidin-4-yl)-6-chloro-7-azaindoline (0.5 g) and 2,4-difluorophenethyl bromide (0.43 g) were treated as in Example 2 to give the hydrochloride (74 mg) of the title compound as a brown powder (yield: 7.8%).

reactant | 1-(Piperidin-4-yl)-6-chloro-7-azaindoline | 0.5 g | N1CCC(CC1)N1CCC2=CC=C(N=C12)Cl | C12H16ClN3
reactant | 2,4-difluorophenethyl bromide | 0.43 g | FC1=C(CCBr)C=CC(=C1)F | C8H7BrF2
product | 1-[1-(2,4-difluorophenethyl)-piperidin-4-yl]-6-chloro-7-azaindoline | yield: 7.8% | FC1=C(CCN2CCC(CC2)N2CCC3=CC=C(N=C23)Cl)C=CC(=C1)F | C20H22ClF2N3
